US04473697
8.25 g. of 2-amino-4-thiocyanato-aniline are dissolved in 60 ml. of acetone, whereupon a solution of 6.1 g. of bromo cyane and 20 ml. of ethanol is added dropwise. The reaction mixture is allowed to stand overnight, whereupon it is evaporated to dryness. The residue is taken up in water and the pH of the solution formed is adjusted to 8 by adding a 2N sodium hydroxide solution. The precipitated crystals are filtered off, washed with water and dried. Thus 8.3 g. of 2-amino-5-thiocyanato-1H-benzimidazole are obtained. M.p.: 204°-205° C. (decomposition).

reactant | 2-amino-4-thiocyanato-aniline | NC1=C(N)C=CC(=C1)SC#N | C7H7N3S
reactant | acetone | CC(=O)C | C3H6O
reactant | bromo cyane | C(#N)Br | CBrN
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-5-thiocyanato-1H-benzimidazole | NC1=NC2=C(N1)C=CC(=C2)SC#N | C8H6N4S
